US07183418B2
2-(2.2-Dimethoxyethylsulphanyl)-thiophene
To a solution of 2-thiophenethiol (12.3 g, 106 mmol) in acetone (180 ml), bromoacetaldehyde dimethyl acetal (13.6 ml, 115 mmol) was added, followed by potassium carbonate (21.8 g, 158 mmol). The reaction was refluxed for 16 h, cooled, then filtered and concentrated under reduced pressure. The crude product was purified by column chromatography over silica (eluent: petrol:DCM, 2:1) to afford the product as an orange oil (21.0 g, 97%). M/Z 204 (M+). Found C, 47.0; H, 5.7; S, 32.3; O, 15.8. Calc. for C8H12O2S2 C, 47.0; H 5.9; S, 31.4; O, 15.7. 1H NMR (300 MHz, CDCl3) δ 7.35 (dd, 1H, J=1.22 & 5.37 Hz), 7.17 (dd, 1H, J=1.22 & 3.58 Hz), 6.97 (dd, 1H, J=3.58 & 5.37 Hz), 4.51 (t,1 H, J=5.65 Hz), 3.35 (s, 6H), 2.98 (d, 2H, J=5.65 Hz).

reactant | 2-thiophenethiol | 106 mmol, 12.3 g | S1C(=CC=C1)S | C4H4S2
reactant | bromoacetaldehyde dimethyl acetal | 115 mmol, 13.6 ml | COC(CBr)OC | C4H9BrO2
reactant | potassium carbonate | 158 mmol, 21.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 180 ml | CC(=O)C | C3H6O
product | 2-(2.2-Dimethoxyethylsulphanyl)-thiophene | 21.0 g, 97% | COC(CSC=1SC=CC1)OC | C8H12O2S2
